US07049314B2
2-Cyclopenten-1-one (4.1 g, 4.2 mL, 50 mMol) was added to a stirred solution of 5-cyanoindole (1.42 g, 10 mMol) and ytterbium triflate hexahydrate (124 mg, 0.2 mMol) in acetonitrile (15 mL). After stirring at room temperature for 7d, the reaction was concentrated to an oil and diluted with ether. The red oily mixture was filtered through celite and the filtrate was concentrated in vacuo. The crude product was purified by flash chromatography on silica gel (35 g) using a gradient of 20–35% ethyl acetate in hexane. Pure product fractions were concentrated and dried under high vacuum to give 3-(3-oxocyclopentyl)-1H-indole-5-carbonitrile (1.55 g, 69%). 1H NMR (500 MHz, CDCl3) δ 8.41 (1 H, bs), 7.99 (1 H, s), 7.45 (2 H, m), 7.12 (1 H, dd, J=2.44, 0.92 Hz), 3.72 (1 H, m), 2.77 (1 H, dd, J=7.63, 18.31 Hz), 2.56 (1 H, m), 2.40 (3 H, m), 2.10 (1 H, m). MS m/e 223.2 (M−H)+. Anal. calcd. for C14H12N2O: C, 74.98; H, 5.39; N, 12.49. Found: C, 74.75; H, 5.50; N, 12.23.

reactant | 2-Cyclopenten-1-one | 50 mMol, 4.2 mL, 4.1 g | C1(C=CCC1)=O | C5H6O
reactant | 5-cyanoindole | 10 mMol, 1.42 g | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | ytterbium triflate hexahydrate | 0.2 mMol, 124 mg | O.O.O.O.O.O.[O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | 3-(3-oxocyclopentyl)-1H-indole-5-carbonitrile | 1.55 g, 69% | O=C1CC(CC1)C1=CNC2=CC=C(C=C12)C#N | C14H12N2O
